US04847254
1-Hydroxy-6-methoxy-1-indanmethylamine
60 g of trimethylsilyl cyanide are added via syringe to a mixture of 75 g of 6-methoxy-1-indanon, 0.8 g of anhydrous zinc iodide and 150 milliliters of anhydrous toluene. The reaction mixture was heated to 60 degrees Centigrade for 6 hours and then stirred for 16 hours without heating. To a cooled suspension of 44 g of lithium aluminium hydride in 1300 milliliters of anhydrous ether was added the solution of the unpurified cyanohydrin in ether at 0°-5° C. After the addition had been completed the reaction mixture was refluxed with stirring for 21/2 hours. After cooling destruction of the excess lithium aluminium hydride was completed by cautious dropwise addition of 45 milliliters of water followed by dropwise addition of 45 milliliters of 14% sodium-hydroxide solution and subsequent addition of 190 milliliters of water. Stirring was continued for 30 minutes. Filtration and extraction with dichloromethane gave a clear organic solution which was dried over anhydrous magnesium sulphate and evaporated, and the residue was crystallized from ether. Yield: 58 grams of product.

reactant | trimethylsilyl cyanide | 60 g | C[Si](C)(C)C#N | C4H9NSi
reactant | 6-methoxy-1-indanon | 75 g | COC1=CC=C2CCC(C2=C1)=O | C10H10O2
reactant | toluene | 150 milliliters | C1(=CC=CC=C1)C | C7H8
reactant | lithium aluminium hydride | 44 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
solvent | ether | 1300 milliliters | CCOCC | C4H10O
catalyst | zinc iodide | 0.8 g | [I-].[Zn+2].[I-]
product | 1-Hydroxy-6-methoxy-1-indanmethylamine | OC1(CCC2=CC=C(C=C12)OC)CN | C11H15NO2
